US07812017B2
5-(Benzyloxy)-1-(phenylsulfonyl)-1H-indole
DCM (200 mL) was added to 5-benzyloxoindole (15 g, 67 mmol), benzylsulfonic acid (17.8 g, 101 mmol) and tetrabutyl ammoniumsulfat (6.84 g, 20 mmol) followed by 5 M NaOH (40 mL). The reaction mixture was stirred at rt for 3 h. The aqueous layer was washed with DCM (2×30 mL) and the organic layers were combined and washed with brine (30 mL). Drying (MgSO4) and concentration in vacco was followed by crystallization from MeOH to give the product in 83% yield (20.3 g).

reactant | 5-benzyloxoindole | 67 mmol, 15 g | C(C1=CC=CC=C1)C1=CC2=CC(N=C2C=C1)=O | C15H11NO
reactant | benzylsulfonic acid | 101 mmol, 17.8 g | C(C1=CC=CC=C1)S(=O)(=O)O | C7H8O3S
reactant | tetrabutyl ammoniumsulfat | 20 mmol, 6.84 g | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaOH | 5 M, 40 mL | [OH-].[Na+]
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-(Benzyloxy)-1-(phenylsulfonyl)-1H-indole | 83% yield | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1 | C21H17NO3S
